US07037932B2
a) (2E)-3-(2-Fluoro-5-methoxyphenyl)-2-propenoic acid
A solution of 2-fluoro-5-methoxybenzaldehyde (10.00 g, 64.9 mmol), malonic acid (13.4 g, 128.8 mmol), piperidine (2.00 mL) and pyridine (100 mL) was heated to 110° C. for 2 h. After this time the solvent was removed in vacuo and the residue taken up in ethyl acetate and washed with aqueous hydrochloric acid (2N, 100 mL). The organic solvent was dried (MgSO4) and the solvent evaporated in vacuo. The solid was recrystallised from hot etahanol to give a white solid (12.2 g, 95%); δH (300 MHz, DMSO) 7.60 (1H, d, J 7 Hz, CH═C), 7.31–7.28 (1H, m, Ar), 7.20 (1H, t, Ar), 7.07–6.97 (1H, m, Ar), 6.62 (1H, d, J 8 Hz, CH═CH), 3.80 (3H, s, OCH3).

reactant | 2-fluoro-5-methoxybenzaldehyde | 64.9 mmol, 10.00 g | FC1=C(C=O)C=C(C=C1)OC | C8H7FO2
reactant | malonic acid | 128.8 mmol, 13.4 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | 2.00 mL | N1CCCCC1 | C5H11N
solvent | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
product | (2E)-3-(2-Fluoro-5-methoxyphenyl)-2-propenoic acid | 12.2 g, 95% | FC1=C(C=C(C=C1)OC)/C=C/C(=O)O | C10H9FO3
